US03960967
The lithium diisopropylamide solution was then added over a 75 minute period to a -70°C. solution of 5.0 g. of 1-p-toluenesulfonyl-2-methyl-4-hydroxy-but-2-ene and 7.0 g. of 1-bromo-3-methyl-5-(2,6,6-trimethylcyclohexen-1-yl)-penta-2,4-diene in 50 ml. of tetrahydrofuran. After the addition, the reaction mixture was stirred for an additional 45 minutes at -70°C. and was then warmed to 0°C. and was poured onto 400 ml. of ice water. The mixture was extracted with three 300 ml. portions of diethyl ether, and the combined extracts were washed with two 400 ml. portions of brine and dried over anhydrous magnesium sulfate. Evaporation of the solvent at reduced pressure gave a yellow oil which was immediately chromatographed on 300 g. of silica gel eluting with 5 to 30% diethyl ether in benzene followed by ethyl acetate. From the chromotography there was obtained 6.43 g. of pure 1-hydroxy-3,7-dimethyl-4-p-toluenesulfonyl-9 -(2,6,6-trimethylcyclohexen-1-yl)-nona-2,6,8-triene (70% yield) and 1.21 g. of recovered hydroxysulfone starting material. The product had UV in isopropanol at λmax = 228-9 mμ ( ε= 25,740); 260-2 mμ ( ε = 17,070) and 274-5 mμ ( ε = 15,010).

reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | 1-p-toluenesulfonyl-2-methyl-4-hydroxy-but-2-ene | C1(=CC=C(C=C1)S(=O)(=O)CC(=CCO)C)C | C12H16O3S
reactant | 1-bromo-3-methyl-5-(2,6,6-trimethylcyclohexen-1-yl)-penta-2,4-diene | BrCC=C(C=CC1=C(CCCC1(C)C)C)C | C15H23Br
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-hydroxy-3,7-dimethyl-4-p-toluenesulfonyl-9 -(2,6,6-trimethylcyclohexen-1-yl)-nona-2,6,8-triene | 70% yield | OCC=C(C(CC=C(C=CC1=C(CCCC1(C)C)C)C)S(=O)(=O)C1=CC=C(C=C1)C)C | C27H38O3S
